US08541588B2
1-(diphenylmethyl)-3-hydrazinoazetidine dihydrochloride
To a stirred suspension of tert-butyl 2-[1-(diphenylmethyl)azetidin-3-yl]hydrazinecarboxylate (Preparation 691, 19.3 g, 54.6 mmol) in 1,4-dioxane (64 ml) was added 4M hydrogen chloride in 1,4-dioxane (290 ml) at 0° C. and stirred at room temperature for 4 hours. Then the reaction mixture was concentrated in vacuo and the residue was triturated with diethyl ether to give 15 g (85%) of the title compound as a white solid.

reactant | tert-butyl 2-[1-(diphenylmethyl)azetidin-3-yl]hydrazinecarboxylate | 54.6 mmol, 19.3 g | C1(=CC=CC=C1)C(N1CC(C1)NNC(=O)OC(C)(C)C)C1=CC=CC=C1 | C21H27N3O2
reactant | hydrogen chloride | 4M | Cl | ClH
solvent | 1,4-dioxane | 64 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 290 ml | O1CCOCC1 | C4H8O2
product | 1-(diphenylmethyl)-3-hydrazinoazetidine dihydrochloride | 15 g, 85% | Cl.Cl.C1(=CC=CC=C1)C(N1CC(C1)NN)C1=CC=CC=C1 | InChI=1S/C16H19N3.2ClH/c17-18-15-11-19(12-15)16(13-7-3-1-4-8-13)14-9-5-2-6-10-14;;/h1-10,15-16,18H,11-12,17H2;2*1H
